US04692460
b. Diethyl 2-[Cyano(5-methyl-2-thienyl)methyl]-propanedioate
A 50.60 g (0.189 moles) sample of diethyl 2-[(5-methyl-2-thienyl)methylene]propanedioate, the product of Example 1a., was taken up in 560 ml dry THF. The solution was cooled in an ice bath. 560 ml of 1N diethyl aluminum cyanide in toluene (0.57 moles) was added dropwise over one hr. The ice bath was then removed and the reaction was stirred at room temperature for 1.5 hr. After this time the reaction was cooled again in an ice bath and 168 ml of 3N sodium hydroxide was added slowly. This was stirred for one hr. The reaction was partitioned between methylene chloride and water, the organics were washed with water, brine, and dried (MgSO4). The solvents were evaporated in vacuo. The residue was distilled in a Kugelrohr at 140° C. and 0.005 mm Hg. 117.17 g of diethyl 2-[cyano(5-methyl-2-thienyl)methyl]-propanedioate was collected as an oil.

reactant | diethyl 2-[(5-methyl-2-thienyl)methylene]propanedioate | CC1=CC=C(S1)C=C(C(=O)OCC)C(=O)OCC | C13H16O4S
reactant | diethyl aluminum cyanide | 1N, 560 ml | [C-]#N.C(C)[Al+]CC
reactant | toluene | 0.57 moles | C1(=CC=CC=C1)C | C7H8
solvent | THF | 560 ml | C1CCOC1 | C4H8O
product | Diethyl 2-[Cyano(5-methyl-2-thienyl)methyl]-propanedioate | C(#N)C(C(C(=O)OCC)C(=O)OCC)C=1SC(=CC1)C | C14H17NO4S
